US05543419
Methyl (RS)-4-(methylthio)-2-phenylbutanoate
Lithium diisopropylamide (450 ml of a 1.5M solution in cyclohexane) was added to a stirred solution of phenylacetic acid (40.8 g) in tetrahydrofuran (300 ml) at between 0° and 5° C. The mixture was warmed to room temperature, stirred for 1.5 hours, treated with 2-chloroethylmethylsulphide (30 ml) in tetrahydrofuran 30 ml, refluxed for 2 hours, cooled and evaporated. To the residue in methanol (200 ml) was added concentrated sulphuric acid (50 ml) in methanol (250 ml), the mixture refluxed for 1.5 hours, and evaporated. The residue was partitioned between water and chloroform, the organic layer washed with aqueous 10% potassium carbonate, dried over sodium sulphate and evaporated to give a light brown oil (55 g). A portion of this (33 g) was distilled to give the title compound (24.5 g, 61%) as a clear liquid b.p. 128°-135° C. at 5 mm Hg.

reactant | Lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | phenylacetic acid | 40.8 g | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | 2-chloroethylmethylsulphide | 30 ml | ClCCSC | C3H7ClS
solvent | cyclohexane | C1CCCCC1 | C6H12
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | Methyl (RS)-4-(methylthio)-2-phenylbutanoate | 55 g | CSCCC(C(=O)OC)C1=CC=CC=C1 | C12H16O2S
